.title tr_XOR2
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.param VDD=1.8
Vdd vdd 0 {VDD}
Vin in 0 PULSE(0 {VDD} 2n 0.02n 0.02n 9n 20n)
X1 abar in vdd vdd PMOS18 W={(1.7032)*1e-6} L=0.18u
X2 abar in 0 0 NMOS18 W={(0.3666)*1e-6} L=0.18u
X3 bbar 0 vdd vdd PMOS18 W={(1.7032)*1e-6} L=0.18u
X4 bbar 0 0 0 NMOS18 W={(0.3666)*1e-6} L=0.18u
X5 out in m1 0 NMOS18 W={(0.3666)*1e-6} L=0.18u
X6 m1 0 0 0 NMOS18 W={(0.3666)*1e-6} L=0.18u
X7 out abar m2 0 NMOS18 W={(0.3666)*1e-6} L=0.18u
X8 m2 bbar 0 0 NMOS18 W={(0.3666)*1e-6} L=0.18u
X9 out abar k1 vdd PMOS18 W={(1.8671)*1e-6} L=0.18u
X10 k1 0 vdd vdd PMOS18 W={(1.8671)*1e-6} L=0.18u
X11 out in k2 vdd PMOS18 W={(1.8671)*1e-6} L=0.18u
X12 k2 bbar vdd vdd PMOS18 W={(1.8671)*1e-6} L=0.18u
CL out 0 5.0f
.control
foreach cs 0 1 2 3 4
 foreach vd 1.620 1.800 1.980
  foreach tp -55 27 150
   alterparam case=$cs
   alterparam VDD=$vd
   reset
   option temp=$tp
   let v10=0.1*$vd
   let v90=0.9*$vd
   tran 0.004n 20n
   meas tran trise trig v(out) val=$&v10 rise=1 td=1.5n targ v(out) val=$&v90 rise=1 td=1.5n
   meas tran tfall trig v(out) val=$&v90 fall=1 td=10.5n targ v(out) val=$&v10 fall=1 td=10.5n
   echo "RES cs=$cs vd=$vd tp=$tp trise=$&trise tfall=$&tfall"
  end
 end
end
.endc
.end
